simulator lang=spectre
global 0

ahdl_include "./dut/simple_binary_voltage_dac_4b.va"

Vref (vref 0) vsource dc=0.9
Vss (vss 0) vsource dc=0
// Code samples at 5/15/.../155 ns cover every 4-bit code from 0 through 15.
Vb0 (code_0 0) vsource type=pwl wave=[0 0 9.5n 0 10n 0.9 19.5n 0.9 20n 0 29.5n 0 30n 0.9 39.5n 0.9 40n 0 49.5n 0 50n 0.9 59.5n 0.9 60n 0 69.5n 0 70n 0.9 79.5n 0.9 80n 0 89.5n 0 90n 0.9 99.5n 0.9 100n 0 109.5n 0 110n 0.9 119.5n 0.9 120n 0 129.5n 0 130n 0.9 139.5n 0.9 140n 0 149.5n 0 150n 0.9 165n 0.9]
Vb1 (code_1 0) vsource type=pwl wave=[0 0 9.5n 0 10n 0 19.5n 0 20n 0.9 29.5n 0.9 30n 0.9 39.5n 0.9 40n 0 49.5n 0 50n 0 59.5n 0 60n 0.9 69.5n 0.9 70n 0.9 79.5n 0.9 80n 0 89.5n 0 90n 0 99.5n 0 100n 0.9 109.5n 0.9 110n 0.9 119.5n 0.9 120n 0 129.5n 0 130n 0 139.5n 0 140n 0.9 149.5n 0.9 150n 0.9 165n 0.9]
Vb2 (code_2 0) vsource type=pwl wave=[0 0 9.5n 0 10n 0 19.5n 0 20n 0 29.5n 0 30n 0 39.5n 0 40n 0.9 49.5n 0.9 50n 0.9 59.5n 0.9 60n 0.9 69.5n 0.9 70n 0.9 79.5n 0.9 80n 0 89.5n 0 90n 0 99.5n 0 100n 0 109.5n 0 110n 0 119.5n 0 120n 0.9 129.5n 0.9 130n 0.9 139.5n 0.9 140n 0.9 149.5n 0.9 150n 0.9 165n 0.9]
Vb3 (code_3 0) vsource type=pwl wave=[0 0 9.5n 0 10n 0 19.5n 0 20n 0 29.5n 0 30n 0 39.5n 0 40n 0 49.5n 0 50n 0 59.5n 0 60n 0 69.5n 0 70n 0 79.5n 0 80n 0.9 89.5n 0.9 90n 0.9 99.5n 0.9 100n 0.9 109.5n 0.9 110n 0.9 119.5n 0.9 120n 0.9 129.5n 0.9 130n 0.9 139.5n 0.9 140n 0.9 149.5n 0.9 150n 0.9 165n 0.9]

XDUT (code_0 code_1 code_2 code_3 vref vss aout) simple_binary_voltage_dac_4b


tran tran stop=165n maxstep=500p
save code_0 code_1 code_2 code_3 vref vss aout
